US08754220B2
To a solution of the above compound (0.850 g, 7.32 mmol) in 75 mL of THF at −20° C. under an atmosphere of nitrogen was added triphenylphosphine (9.60 g, 36.6 mmol), diethyl azodicarboxylate (DEAD, 6.37 g, 36.6 mmol), and diphenylphosphoryl azide (10.1 g, 36.6 mmol). After 6 h, the reaction was warmed to rt, and after an additional 15 h, diluted with water and extracted 2× with ethyl acetate. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-30% ethyl acetate in hexanes to provide rac-(3R,4S)-4-azido3-methyltetrahydro-2H-pyran that gave a proton NMR spectra consistent with theory.

reactant | triphenylphosphine | 36.6 mmol, 9.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 36.6 mmol, 6.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 36.6 mmol, 10.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | rac-(3R,4S)-4-azido3-methyltetrahydro-2H-pyran | N(=[N+]=[N-])C1C(COCC1)C | C6H11N3O
